US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 2-(5-bromo-4-methyl-2-thienyl)-4-chloromethyloxazole to give 2-(5-bromo-4-methyl-2-thienyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole. The yield was 93%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 85-86° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 2-(5-bromo-4-methyl-2-thienyl)-4-chloromethyloxazole | BrC1=C(C=C(S1)C=1OC=C(N1)CCl)C | C9H7BrClNOS
product | 2-(5-bromo-4-methyl-2-thienyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole | yield was 93% | BrC1=C(C=C(S1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C=NC=C1)C | C22H22BrN3O2S
